US09169217B2
Preparation of (E)-benzyl 4-amino-6-(4-chloro-2-fluoro-3-methoxy-phenyl)-3-(2-chlorovinyl)-5-fluoropicolinate (Compound 44)
N-Chlorosuccinimide (NCS; 190 mg, 1.4 mmol, 2.0 equiv) was added to a stirred solution of (E)-benzyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-3-(2-(trimethylsilyl)vinyl)picolinate (350 mg, 0.70 mmol, 1.0 equiv) in DMF (7.0 mL) at 23° C. The homogeneous pale green solution was heated to 50° C. and stirred for 24 h. The cooled reaction mixture was diluted with water (400 mL) and extracted with Et2O (4×100 mL). The combined organic layers were dried (MgSO4), gravity filtered, and concentrated by rotary evaporation. The residue was purified by reverse phase column chromatography (5% acetonitrile to 100% acetonitrile gradient) to afford the desired product, (E)-benzyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-(2-chlorovinyl)-5-fluoropicolinate as a tan powder (70 mg, 22% yield): mp 133-135° C.; IR (thin film) 3486 (s), 3345 (s), 3215 (w), 3069 (w), 3037 (w), 2953 (w), 1719 (s), 1616 (s) cm−1; 1H NMR (400 MHz, CDCl3) δ 7.47-7.43 (m, 2H), 7.41-7.33 (m, 3H), 7.27 (m, 2H), 6.89 (d, J=14 Hz, 1H), 6.45 (d, J=14 Hz, 1H), 5.37 (s, 2H), 4.62 (br s, 2H), 3.97 (d, J=1 Hz, 3H); ESIMS m/z 465 ([M+H]+).

reactant | N-Chlorosuccinimide | 1.4 mmol, 190 mg, 2.0 equiv | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | (E)-benzyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-3-(2-(trimethylsilyl)vinyl)picolinate | 0.70 mmol, 350 mg, 1.0 equiv | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OCC1=CC=CC=C1)\C=C\[Si](C)(C)C | C25H25ClF2N2O3Si
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
solvent | water | 400 mL | O | H2O
product | (E)-benzyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-(2-chlorovinyl)-5-fluoropicolinate | 70 mg, 22% yield | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OCC1=CC=CC=C1)\C=C\Cl | C22H16Cl2F2N2O3
